US08293923B2
1H-Benzoimidazol-2-ylamine (1 g, 7.5 mmol) was dissolved in acetone (30 mL) and powdered potassium hydroxide (2.12 g, 37.5 mmol) was added. The reaction was allowed to stir for several minutes at room temperature before (3-bromopropoxy)(tert-butyl)dimethylsilane (1.75 mL, 7.5 mmol) was added. After 1 hour, methylene chloride was added and the mixture was washed with water, brine and dried over magnesium sulfate. Upon concentration the crude product was dissolved in methylene chloride and purified by combiflash chromatography, methylene chloride to methylene chloride 6% MeOH gradient, to give 1-(3-(tert-butyldimethylsilyloxy)propyl)-1H-benzo[d]imidazol-2-amine (0.400 g, 1.3 mmol).

reactant | 1H-Benzoimidazol-2-ylamine | 7.5 mmol, 1 g | N1C(=NC2=C1C=CC=C2)N | C7H7N3
reactant | potassium hydroxide | 37.5 mmol, 2.12 g | [OH-].[K+]
reactant | (3-bromopropoxy)(tert-butyl)dimethylsilane | 7.5 mmol, 1.75 mL | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 1-(3-(tert-butyldimethylsilyloxy)propyl)-1H-benzo[d]imidazol-2-amine | 1.3 mmol, 0.400 g | [Si](C)(C)(C(C)(C)C)OCCCN1C(=NC2=C1C=CC=C2)N | C16H27N3OSi
